US05714627
A thermometer and Claisen head were attached to a three-necked flask having an internal volume of 500 ml. A receiver having a gage was attached to the Claisen head via a condenser to make a distillation apparatus. Into this apparatus were charged methyl p-toluate 75 g (0.50 mole), phenol 376 g (4.0 mole) and titanium tetraisopropoxide 1.42 g (5.0 mmole). The contents were reacted with stirring in a 190° C. bath. The reaction was conducted at atmospheric pressure for six hours while removing methanol produced in the reaction. Then, the temperature of the bath was elevated to 196° to 198° C., and phenol was removed by distillation in an amount of as much as 150 g. The remaining phenol and methyl p-toluate were removed by distilling under vacuum (85 mmHg). Then, the vacuum pressure was decreased to obtain phenyl p-toluate. The boiling point was 183° to 185° C./18 mmHg, and the product was a slightly yellow colored white solid. The yield was 72.98 g, (69% in terms of methyl p-toluate). The melting point was 74° to 76° C.

reactant | methyl p-toluate | 0.50 mole, 75 g | C1(=CC=C(C=C1)C(=O)OC)C | C9H10O2
reactant | phenol | 4.0 mole, 376 g | C1(=CC=CC=C1)O | C6H6O
catalyst | titanium tetraisopropoxide | 5.0 mmole, 1.42 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | phenyl p-toluate | C1(=CC=C(C=C1)C(=O)OC1=CC=CC=C1)C | C14H12O2
